Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Gatifloxacin / Penicillins / Ciprofloxacin / Bactrim
 
Attending: ___.
 
Chief Complaint:
Nausea and vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a history of diabetes (thought to be type I) and 
chronic ___ erythema who presents with nausea vomiting without 
abdominal pain for the past day. Pateint reports she began 
vomiting this am and in total has had 4 episodes of non bloody 
vomiting in addition to loose stools and dysuria. She denies 
associated chest pain, fevers, chills or shortness of breath. 
She has not been able to tolerate oral intake at home. She 
additionally notes an associated HA with photophobia starting 
this am. Of note the patient also has a history of frequent 
UTIs. She has been checking blood sugars at home and states they 
have been in the 150s throughout the day.  
Initial VS in the ED:97.2 79 ___ 93% Exam notable for 
bilateral ___ edema and eryhtema with chronic skin changes 
consistent with venous stasis. Labs notable for BG of 455, AG of 
16 and trop negative x 2. VBG was 7.42/34/70. UA showed ketones 
of 10 in addition to > 182 WBC, 17 RBC, moderate bacteria and 
moderate nitrites. Head CT was negative for acute process. 
Patient was given vanco for cellulitis, ctx for UTI. She was 
started on IVF (received 3 L total). She was given 8 units IB 
insulin and BG fell to 25. She was therefore given D50 with 
increase to 417. In terms of blood pressure control she was 
given her home losartan 50 mg with improvment in BP to systolics 
of 160. VS prior to transfer: 77 167/62 16 99%.  

 
Past Medical History:
1. DM2: insulin-dependent may be Type 1  
-followed by ___  
-c/b recurrent ulcers, urosepsis  
-Charcot deformity  
2. s/p amputation of L ___ & ___ toe  
3. chronic ulcer of R pretibia  
4. hx of MRSA foot ___  
5. HTN  
6. PVD  
7. hypercholesterolemia  
8. Anemia, ? ACD, baseline low ___  
9. Hematemesis in ___ thought to be ___ small ___, 
EGD ulcer in GE junction  

 
Social History:
___
Family History:
Mother had DM2, died of diabetes related coma  
Father has DM2, still alive  
Several family members on paternal side with DM2  
No FH of CAD, MI, or cancer.
 
Physical Exam:
Admission Physical Exam:  
Vitals: T: 98.2 BP: 191/110 P: 89 R:20 O2: 96% RA  
General: Alert, oriented, appears mildly uncomfortable  
HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear  

Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding  
Ext: Warm, erythma of the shins bilaterally, bilateral peeling 
scaling, several toes amputated.  
Neuro: CN II-XII, strength ___, sensation in tact to light touch 
 

Discharge Physical Exam:
T 97.6 BP 170/65 (150-194/65-91) HR 86 RR 20 O2 sat 98% FSG @ 
0600 160 (61-267)
GEN: Alert, oriented, no acute distress  
HEENT: NCAT MMM EOMI sclera anicteric, OP clear, poor dentition  

NECK: supple, no JVD, no LAD  
PULM: Good aeration, CTAB no wheezes, rales, ronchi  
CV: RRR normal S1/S2, no mrg  
ABD: soft obese NT ND normoactive bowel sounds, no r/g, no 
suprapubic tenderness, no CVA tenderness  
EXT: Erythema in lower extremities bilaterally with peeling 
skin, no purulent drainage. Left toes amputated. No edema, 
thready DP pulses.
NEURO: CNs2-12 intact, motor function grossly normal, sensation 
grossly intact 

 
Pertinent Results:
Admission:
___ 06:00PM BLOOD WBC-10.3 RBC-4.99# Hgb-15.5# Hct-47.3# 
MCV-95 MCH-31.1 MCHC-32.9 RDW-13.6 Plt ___
___ 06:00PM BLOOD Neuts-91.0* Lymphs-5.9* Monos-2.6 Eos-0.1 
Baso-0.4
___ 06:00PM BLOOD ___ PTT-22.7* ___
___ 06:00PM BLOOD Glucose-445* UreaN-31* Creat-1.4* Na-136 
K-4.9 Cl-99 HCO3-20* AnGap-22*
___ 06:00PM BLOOD ALT-12 AST-25 AlkPhos-113* TotBili-0.6
___ 06:00PM BLOOD Albumin-4.2
___ 10:52PM BLOOD Osmolal-313*
___ 06:14PM BLOOD pO2-70* pCO2-34* pH-7.42 calTCO2-23 Base 
XS--1 Comment-GREEN TOP
___ 06:14PM BLOOD Lactate-3.2*

Discharge:
___ 07:55AM BLOOD WBC-7.7# RBC-4.17* Hgb-12.8 Hct-39.6 
MCV-95 MCH-30.7 MCHC-32.3 RDW-13.7 Plt ___
___ 07:55AM BLOOD ___ PTT-26.7 ___
___ 07:55AM BLOOD Glucose-168* UreaN-24* Creat-1.3* Na-138 
K-4.7 Cl-107 HCO3-22 AnGap-14
___ 07:55AM BLOOD Calcium-7.8* Phos-3.0 Mg-2.0
___ 11:44AM BLOOD Lactate-2.4*
___ 11:44AM BLOOD ___ pO2-90 pCO2-54* pH-7.27* 
calTCO2-26 Base XS--2 Comment-GREEN TOP
___ 10:52PM BLOOD CK-MB-5 cTropnT-<0.01
___ 06:00PM BLOOD cTropnT-<0.01

Microbiology:
___ and ___ Blood Cultures: Pending
___ Urine Culture: Negative
___ Urinalysis: Large leukocytes, positive nitrite, >182 WBC, 
17 RBC, moderate bacteria

Imaging:
___ CCR: Limited, with mild cardiomegaly and no definite signs 
of 
pneumonia or overt CHF. 
___ CT Head: No acute intracranial process.  Sinus disease in 
the right 
sphenoid sinus. 

 
Brief Hospital Course:
Brief Course:
___ yo female with hx of likely type I diabetes presents with 
nausea and vomiting, found to have elevated blood glucose to 455 
and anion gap in the setting of UTI. Patient's blood sugars were 
controlled and her anion gap resolved with subcutaneous insulin 
and IV fluids. She was treated for her UTI with IV ceftriaxone 
and discharged on oral cefuroxime.
 
Active Issues:
# DKA: Patient presented with elevated blood glucose, increased 
anion gap, and ketones in urine reflective of some degree of 
DKA. UTI is most likely precipitant. Patient recieved 8 units of 
IV insulin and was transitioned to subcutaneous insulin regimen 
which was taylored per ___ recommendations. Her electrolytes 
were monitored and repleated as necessary and her anion gap 
closed. She received IV fluids and was able to tolerated po. 
Patient's blood glucose stabilized and she was discharged on her 
home insulin regimen.
 
# Hypertensive emergency: Patient presented with elevated blood 
pressures to 200 systolic. She had a headache on admission 
concerning for some level of end organ ischemia, which resolved 
with blood pressure control. Patient maintained good urine 
output with stable creatinine. Head CT negative. Trop negative x 
2, EKG without evidence of ischemic changes. Patient was 
continued on her home antihypertensive medication and required 2 
prn doses of 12.5 mg captopril.
  
# UTI: Patient with grossly positive UA and leukocytosis, 
although urine culture was negative. Patient has history of UTI 
with culture growing pan sensitive proteus and ecoli. She was 
initially treated with IV ceftriaxone then transitioned to oral 
cefuroxime for total 10 day course, given her multiple 
medication allergies and history of frequent UTIs.

# Lower extremity erythema: Per patient lower extremity edema 
currently at baseline. No obvious signs of cellulitis. Likely 
combination of venous stasis dermatitis and arterial 
insufficiency. Patient will fo home with ___ for wound care and 
dressing changes.
  
Inactive Issue: 
# CKD: Creatinine was below baseline (1.5-1.8). 

Transitional Issues:
1. Code Status: FULL
2. Communication: Patient
3. Medication changes: 
-START Cefuroxime for UTI
4. Follow up: PCP
5. Pending studies: Blood cultures
 
Medications on Admission:
Preadmissions medications listed are incomplete and require 
futher investigation.  Information was obtained from 
PatientwebOMR.
1. Vitamin D 50,000 UNIT PO MONTHLY 
2. Nortriptyline 150 mg PO HS 
3. Rosuvastatin Calcium 20 mg PO DAILY 
4. Losartan Potassium 50 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Detemir 70 Units Bedtime

 
Discharge Medications:
1. Hydrochlorothiazide 25 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Nortriptyline 150 mg PO HS 
4. Pantoprazole 40 mg PO Q24H 
5. Rosuvastatin Calcium 20 mg PO DAILY 
6. Vitamin D 50,000 UNIT PO MONTHLY 
7. cefUROXime axetil *NF* 500 mg Oral BID Duration: 8 Days 
RX *cefuroxime axetil 500 mg 1 tablet(s) by mouth twice a day 
Disp #*16 Tablet Refills:*0
8. Detemir 70 Units Bedtime

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:  Diabetic ketoacidosis
          UTI
          Dehydration
          CKD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
for nausea and vomiting, and your blood sugars were found to be 
very high and you were in DKA. We were able to control your 
blood sugar level with insulin and your nausea and vomiting 
improved.

You were also suspected to have a urinary tract infection which 
we treating with antibiotics.

Please make the following changes to your medications:
START Cefuroxime for your UTI
 
Followup Instructions:
___